US07282512B2
Preparation of [1-({[4-(4-chlorophenyl)-2-pyrimidinyl]sulfanyl}methyl) cyclobutyl]methanol
The title compound was prepared using the same experimental procedure as in example 19a from [1-(hydroxymethyl)cyclobutyl]methanol and 4-(4-chlorophenyl)-2-pyrimidinethiol. 1H NMR (300 MHz, CDCl3) δ 8.49 (d, J=5 Hz, 1H), 7.95 (d, J=9 Hz, 2H), 7.44 (d, J=9 Hz, 2H), 7.32 (d, J=6 Hz, 1H), 4.18 (t, J=7 Hz, 1H), 3.54(d, J=7 Hz, 2H), 3.47 (s, 2H), 2.03-1.69 (m, 6H). GC-MS m/z 320 (M+H).

reactant | [1-(hydroxymethyl)cyclobutyl]methanol | OCC1(CCC1)CO | C6H12O2
reactant | 4-(4-chlorophenyl)-2-pyrimidinethiol | ClC1=CC=C(C=C1)C1=NC(=NC=C1)S | C10H7ClN2S
product | [1-({[4-(4-chlorophenyl)-2-pyrimidinyl]sulfanyl}methyl) cyclobutyl]methanol | ClC1=CC=C(C=C1)C1=NC(=NC=C1)SCC1(CCC1)CO | C16H17ClN2OS
